US04988827
D. Synthesis of 2-(1-Formamidoethyl)-2-methyl-1,3-dioxolane
2-(1-Aminoethyl)-2-methyl-1,3-dioxolane hydrochloride (1.3 g, 0.0078 mol) was dissolved in methanol (25 ml). Sodium methoxide (25% w/w in methanol. 1.68 g, 0.0078 mol) was added and the suspension filtered through Celite. The Celite was rinsed with methanol (25 ml) and the combined filtrates had the solvent removed by rotary evaporation (25 Torr, 40° C.). The resulting clear oil was dissolved in ethyl formate (10.36 g. 0.14 mol) and heated to reflux under nitrogen. The reflux was continued for 4 hours. The excess ethyl formate and ethanol byproduct were removed by rotary evaporation (25 Torr, 40° C.) and the resulting solid was dried in vacuo (0.5 Torr, 25° C., 16 hours). The product was

reactant | 2-(1-Aminoethyl)-2-methyl-1,3-dioxolane hydrochloride | 0.0078 mol, 1.3 g | Cl.NC(C)C1(OCCO1)C
reactant | Sodium methoxide | 0.0078 mol, 1.68 g | C[O-].[Na+]
reactant | ethyl formate | 0.14 mol, 10.36 g | C(=O)OCC | C3H6O2
solvent | methanol | 25 ml | CO | CH4O
product | 2-(1-Formamidoethyl)-2-methyl-1,3-dioxolane | C(=O)NC(C)C1(OCCO1)C | C7H13NO3
